US07893056B2
To a solution of 2,4,6-trichloro-5-fluoropyrimidine (0.476 g, 2.36 mmol) and triethylamine (0.36 mL, 2.60 mmol) in THF was added 3-methyl-3-pyrrolidinol (0.239 g, 2.36 mmol) in THF and MeOH (2 mL). The reaction was stirred at room temperature for 2.5 hours, and then the solvent was removed in vacuo. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organics were dried (Na2SO4) and evaporated to provide 1-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-3-methyl-3-pyrrolidinol as an orange solid (0.486 g, 77%). LCMS: (M+H)+=266.1.

reactant | 2,4,6-trichloro-5-fluoropyrimidine | 2.36 mmol, 0.476 g | ClC1=NC(=C(C(=N1)Cl)F)Cl | C4Cl3FN2
reactant | triethylamine | 2.60 mmol, 0.36 mL | C(C)N(CC)CC | C6H15N
reactant | 3-methyl-3-pyrrolidinol | 2.36 mmol, 0.239 g | CC1(CNCC1)O | C5H11NO
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
product | 1-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-3-methyl-3-pyrrolidinol | 0.486 g, 77% | ClC1=NC(=C(C(=N1)N1CC(CC1)(O)C)F)Cl | C9H10Cl2FN3O
